US07501406B2
4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide was alkylated using 1-bromomethyl-4-difluoromethyl-benzene analogous to Example 1 to afford 4-chloro-N-(4-difluoromethyl-benzyl)-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide:

reactant | 4-Chloro-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N[C@H]1C(NCCC(C1)(F)F)=O | C12H13ClF2N2O3S
reactant | 1-bromomethyl-4-difluoromethyl-benzene | BrCC1=CC=C(C=C1)C(F)F | C8H7BrF2
product | 4-chloro-N-(4-difluoromethyl-benzyl)-N-((R)-5,5-difluoro-2-oxo-azepan-3-yl)-benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@H]1C(NCCC(C1)(F)F)=O)CC1=CC=C(C=C1)C(F)F | C20H19ClF4N2O3S
